US06150352
Step 3.2A 2-{2-[7-chloro-3-(3,5-dimethylphenyl )-6-nitro-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester
To a solution of 7-chloro-3-(3,5-dimethylphenyl)-6-nitro-4-(2-piperidin-2-yl-ethoxy)-1H-quinolin-2-one (200 mg in 5 mL dicloroethane) was added 136 mg of 2-(trimethylsilyl)ethyl 4-nitrophenyl carbonate followed by 0.092 mL diisopropylethylamine and the mixture heated to reflux. After 20 hours, the reaction was cooled to room temperature, concentrated in vacuo and purified by flash chromatography on silica gel (ethyl acetate:hexane, 1:1) to give the title compound (183 mg.)

reactant | 7-chloro-3-(3,5-dimethylphenyl)-6-nitro-4-(2-piperidin-2-yl-ethoxy)-1H-quinolin-2-one | 5 mL, 200 mg | ClC1=C(C=C2C(=C(C(NC2=C1)=O)C1=CC(=CC(=C1)C)C)OCCC1NCCCC1)[N+](=O)[O-] | C24H26ClN3O4
reactant | 2-(trimethylsilyl)ethyl 4-nitrophenyl carbonate | 136 mg | C(OCC[Si](C)(C)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C12H17NO5Si
reactant | diisopropylethylamine | 0.092 mL | C(C)(C)N(CC)C(C)C | C8H19N
product | 2-{2-[7-chloro-3-(3,5-dimethylphenyl )-6-nitro-2-oxo-1,2-dihydro-quinolin-4-yloxy]-ethyl}-piperidine-1-carboxylic acid 2-trimethylsilanylethyl ester | 183 mg | C[Si](CCOC(=O)N1C(CCCC1)CCOC1=C(C(NC2=CC(=C(C=C12)[N+](=O)[O-])Cl)=O)C1=CC(=CC(=C1)C)C)(C)C | C30H38ClN3O6Si
